.include 22nm_HP.pm
.option GMIN=1e-020 ABSTOL=1e-18 temp=25

.param Lmin=22n
.param Wmin=176n
.param Ldiff=44n

M1 drain gate source body nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	drain	  0     0
Vg 	gate	  alim	0
Vs 	source	0		  0
Vb 	body	  0		  0

Vdd alim	  0


.control
echo "Temp M1[W] V-sweep V(drain) V(gate) V(source) V(body)  I(Vd) I(Vg) I(Vs) I(Vb)" > W6nmos_ON_simulation_results.txt
let voltage=0
let Vddbasic=0.8
while voltage le Vddbasic
  let voltage = voltage + 0.05
  alter Vdd = voltage
  dc TEMP 25 50 60
  print @M1[W] abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
  let i = @M1[W]
  echo "25" "$&i" "$&voltage" "$&V(drain)" "$&V(gate)" "$&V(source)" "$&V(body)" "$&I(Vd)" "$&I(Vg)" "$&I(Vs)" "$&I(Vb)" >> W6nmos_ON_simulation_results.txt
end
.endc
.end